US07435837B2
Treatment of (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.50 g, 3.10 mmol) with 3-methylphenylboronic acid (0.63 g, 4.60 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.252 g, 0.30 mmol), and potassium carbonate (0.829 g, 6.0 mmol) generally according to the procedure described for Intermediate 35 gave (±)-[5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a colorless oil. Treatment of the tosylate with sodium azide (0.31 g, 4.78 mmol) generally according to the procedure described for Intermediate 98 afforded 0.32 g (34%) of (±)-2-(azidomethyl)-5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran as a tan solid. mp 48-50° C.; Anal. calcd. for C16H14ClN3O: C, 64.11; H, 4.71; N, 14.02. Found: C, 62.95; H, 4.62; N, 13.72.

reactant | (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.10 mmol, 1.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2OS(=O)(=O)C(F)(F)F)Cl | C17H14ClF3O7S2
reactant | 3-methylphenylboronic acid | 4.60 mmol, 0.63 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | potassium carbonate | 6.0 mmol, 0.829 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.30 mmol, 0.252 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (±)-[5-chloro-7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC(=CC=C2)C)Cl | C23H21ClO4S
